US09144239B2
Step 2: Preparation of (3S,7S,8S,9S)-3-((tert-butoxycarbonyl)amino)-9-methyl-2-oxo-1,5-dioxonane-7,8-diyl bis(2-methylpropanoate) (compound 103)
To a solution of tert-butyl ((3S,7S,8R,9S)-7,8-dihydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate (115.0 mg, 0.245 mmol) in pyridine (1.75 mL) was added DMAP (6.40 mg, 0.0520 mmol) followed by isobutyryl chloride (0.10 mL, 0.956 mmol) at 0° C. and the reaction was slowly warmed to room temperature and stirred for 16 h. The reaction mixture was quenched with H2O and the reaction was stirred at room temperature for 30 min and then extracted with Et2O. The phases were separated and the aqueous phase was further extracted with Et2O. The combined organic phases were washed with brine, dried over MgSO4, filtered, and the filtrate was concentrated and purified by flash chromatography (SiO2, hexanes/EtOAc gradient) to yield the title compound as a colorless, thick oil (115 mg, 94%): IR (neat) 3353, 2976, 1742, 1519, 1368, 1251, 1155 cm−1; 1H NMR (400 MHz, CDCl3) δ 5.41 (d, J=8.2 Hz, 1H), 5.21-5.12 (m, 1H), 5.12-5.04 (m, 1H), 4.92-4.83 (m, 1H), 4.74 (dd, J=13.4, 6.9 Hz, 1H), 3.95 (dd, J=11.7, 7.0 Hz, 1H), 3.80-3.65 (m, 3H), 2.64-2.41 (m, 2H), 1.44 (s, 9H), 1.32 (d, J=6.2 Hz, 3H), 1.20 (d, J=7.0 Hz, 3H), 1.16 (d, J=7.0 Hz, 3H), 1.14 (d, J=7.0 Hz, 3H), 1.10 (d, J=7.0 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 175.57, 175.47, 171.37, 155.18, 80.34, 74.52, 74.30, 74.15, 73.35, 71.34, 34.01, 33.91, 28.30, 19.01, 18.88, 18.74, 18.71, 18.03; HRMS-ESI (m/z) [M]+ calcd for C21H35NO9, 445.2312; found, 445.2322.

reactant | tert-butyl ((3S,7S,8R,9S)-7,8-dihydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate | 0.245 mmol, 115.0 mg | O[C@H]1COC[C@@H](C(O[C@H]([C@@H]1O)C)=O)NC(OC(C)(C)C)=O | C13H23NO7
reactant | isobutyryl chloride | 0.956 mmol, 0.10 mL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | pyridine | 1.75 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.0520 mmol, 6.40 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (3S,7S,8S,9S)-3-((tert-butoxycarbonyl)amino)-9-methyl-2-oxo-1,5-dioxonane-7,8-diyl bis(2-methylpropanoate) | CC(C(=O)O[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OC(C(C)C)=O)C)=O)NC(=O)OC(C)(C)C)C | C21H35NO9
